US08470830B2
Step (i): Preparation of (3-Methyl-4-nitrophenyl)-(4-methylpiperazin-1-yl)methanone
3-Methyl-4-nitrobenzoic acid (5.525 mmol, 1.0 gram) was taken in a 25 mL two necked round bottom flask attached with a condenser, provided with a guard tube. To this, thionyl chloride (6.07 mmol, 0.735 gram) and 1,2-dichloroethane (5 mL) were added and the solution was refluxed for a period of 3 hours. This reaction mixture was added to another 100 mL flask, containing a solution of N-methylpiperazine (16.57 mmol, 1.66 grams) in 10 mL 1,2-dichloroethane, which is maintained at temperature below 5° C. The reaction mixture was then stirred for 0.5 hour at 25° C. After the completion of reaction, the reaction mixture was poured onto 50 mL water. 1,2-dichloroethane layer was separated, washed with water (2×10 mL), brine (10 mL) and dried over anhydrous sodium sulfate. The volatiles were removed under the reduced pressure to obtain thick syrupy mass. This thick syrupy mass was used for next step of reaction without purification.

reactant | 3-Methyl-4-nitrobenzoic acid | 5.525 mmol, 1.0 gram | CC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C8H7NO4
reactant | thionyl chloride | 6.07 mmol, 0.735 gram | S(=O)(Cl)Cl | Cl2OS
reactant | N-methylpiperazine | 16.57 mmol, 1.66 grams | CN1CCNCC1 | C5H12N2
reactant | water | 50 mL | O | H2O
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | (3-Methyl-4-nitrophenyl)-(4-methylpiperazin-1-yl)methanone | CC=1C=C(C=CC1[N+](=O)[O-])C(=O)N1CCN(CC1)C | C13H17N3O3
